US04125552
1.5 mole sulfur, 6 moles of ammonia and 1.5 mole of hydrogen sulfide were charged into a 3 liter stainless steel autoclave and heated to 70° C. as 3 moles of n-hexyl chloride and 250 ml. of methanol were pumped into the vessel. After 2 hours at 70° C., the mixture was filtered free of ammonium chloride and the filtrate was distilled to give an 83.5 percent yield of di-n-hexyl disulfide, boiling point 120° - 122° C. and 1 mm. n D25 1.4864, d 425 0.9145, RD 0.341, calculated RD 0.315.

reactant | sulfur | 1.5 mole | [S] | S
reactant | ammonia | 6 moles | N | H3N
reactant | hydrogen sulfide | 1.5 mole | S | H2S
reactant | n-hexyl chloride | 3 moles | C(CCCCC)Cl | C6H13Cl
solvent | methanol | CO | CH4O
product | di-n-hexyl disulfide | 83.5 percent yield | C(CCCCC)SSCCCCCC | C12H26S2
